*  TLC555, TLC556 and NE555 Timer models.
*
*  The new TLC models are based on the NE555 model from Mike Engelhardt.
*  Changes: Reset threshhold changed to 1.1V.
*           Ron of switches changed according to TI and NS data sheet.
*           Warning: These values depend on the supply voltage.
*           They are calculated from the 15V values by an formula(approximation).
*           R1, R2, R5 changed to 100k according to NS data sheet.
*           R7 changed to 16k for correct power dissipation.
*           I1 and D1 removed
*
*  Helmut Sennewald, 8/24/2003
*
*------------ TLC555 ---------------
*
*      1 GND     VDD   8
*      2 TRIG    DISCH 7
*      3 OUT     THRES 6
*      4 RESET    CONT 5
*
.subckt TLC555 1 2 3 4 5 6 7 8  vdd1={VDD} RonX1={RONX}
.param Ron_d=RonX1*(1+7*(14.3/{vdd1-0.7})**0.75)
.param Ron_oh=RonX1*(10+60*(14.3/{vdd1-0.7})**0.75)
.param Ron_ol=RonX1*(2+15*(14.3/{vdd1-0.7})**0.75)
A1 N001 2 1 1 1 1 N003 1 SCHMITT Vt=0 Vh=1m 
R1 N001 1 100K
R2 5 N001 100K
R3 8 5 100K
S1 1 7 N012 1 DS
A2 N006 N003 1 1 1 1 N004 1 SRFLOP Trise=100n tripdt=10n
A3 6 5 1 1 1 1 N006 1 SCHMITT Vt=0 Vh=1m
S2 8 3 N010 1 OH
S3 3 1 1 N010 OL
A6 1 N013 1 N004 1 1 N012 1 OR Ref=.5 Vlow=-1 Trise=100n
R7 8 1 16K
R8 4 1 1G
R9 2 1 1G
R10 6 1 1G
A4 1 N004 1 N013 1 N010 1 1 OR ref=.5 Vlow=-1 Trise=100n
A5 4 1 1 1 1 N013 1 1 SCHMITT Vt=1.1 Vh=1m
* Ron depends on VDD.
.model DS SW(Ron={Ron_d} Roff=1G Vt=.5 Vh=-.4)
.model OH SW(Ron={Ron_oh} Roff=1Meg Vt=0 Vh=-.8)
.model OL SW(Ron={Ron_ol} Roff=1Meg Vt=0 Vh=-.8)
*   Values for VDD=15V from TI data sheet. 
*.model DS SW(Ron=7 Roff=1G Vt=.5 Vh=-.4)
*.model OH SW(Ron=80 Roff=1Meg Vt=0 Vh=-.8)
*.model OL SW(Ron=13 Roff=1Meg Vt=0 Vh=-.8)
*   Values for VDD=5V from TI data sheet. 
*.model DS SW(Ron=15 Roff=1G Vt=.5 Vh=-.4)
*.model OH SW(Ron=200 Roff=1Meg Vt=0 Vh=-.8)
*.model OL SW(Ron=25 Roff=1Meg Vt=0 Vh=-.8)
*   Values for VDD=2V from TI data sheet.
*.model DS SW(Ron=30 Roff=1G Vt=.5 Vh=-.4)
*.model OH SW(Ron=330 Roff=1Meg Vt=0 Vh=-.8)
*.model OL SW(Ron=70 Roff=1Meg Vt=0 Vh=-.8)
.ends TLC555
*
*
*
*------------ TLC556 ---------------
*
*      1 DISCH1       VDD 14
*      2 THRES1    DISCH2 13
*      3 CONT1     THRES2 12
*      4 RESET1     CONT2 11    
*      5 OUT1      RESET2 10
*      6 TRIG1       OUT2  9
*      7 GND        TRIG2  8  
*
.subckt TLC556 1 2 3 4 5 6 7 8 9 10 11 12 13 14  vdd1={VDD} RonX1={RONX}
X1  7 6 5  4  3  2  1 14  TLC555 vdd={vdd1} ronx={ronx1}
X2  7 8 9 10 11 12 13 14  TLC555 vdd={vdd1} ronx={ronx1}
.ends TLC556
*
*
*
*------------ NE555 ---------------
*
.subckt NE555 1 2 3 4 5 6 7 8
A1 N001 2 1 1 1 1 N003 1 SCHMITT Vt=0 Vh=1m
R1 N001 1 5K
R2 5 N001 5K
R3 8 5 5K
S1 1 7 N012 1 DS
A2 N006 N003 1 1 1 1 N004 1 SRFLOP Trise=100n tripdt=10n
A3 6 5 1 1 1 1 N006 1 SCHMITT Vt=0 Vh=1m
S2 8 3 N010 1 OS
S3 3 1 1 N010 OS
A6 1 N013 1 N004 1 1 N012 1 OR Ref=.5 Vlow=-1 Trise=100n
R7 8 1 4K
R9 2 1 1G
R10 6 1 1G
A4 1 N004 1 N013 1 N010 1 1 OR ref=.5 Vlow=-1 Trise=100n
A5 4 1 1 1 1 N013 1 1 SCHMITT Vt=.7 Vh=1m
I1 8 4 .4m load
D1 4 1 DR
.model DS SW(Ron=6 Roff=.75G Vt=.5 Vh=-.4)
.model OS SW(Ron=6 Roff=1Meg Vt=0 Vh=-.8)
*.model DR D(Ron=150K Roff=1T Vfwd=1.6)
.ends NE555



